US07208629B2
To a solution of 3-bromo-4-chlorobenzoic acid (120 mg) in DMF (1 ml) was added a solution of HATU (192 mg) in DMF (1 ml) and a solution of HOBT (69 mg) in DMF (1 ml). To this mixture was added cyclopropylamine (0.04 ml) and DIPEA (0.27 ml). The reaction was stirred at room temperature for 18 hours, before diluting with methanol (5 ml) and filtration through a SPE cartridge (SCX, 2 g). The filtrate was applied to a SPE cartridge (Aminopropyl, 10 g) and washed through with methanol (10 ml). The combined filtrate and washings were reduced to dryness under vacuum to give 3-bromo-4-chloro-N-cyclopropylbenzamide.

reactant | 3-bromo-4-chlorobenzoic acid | 120 mg | BrC=1C=C(C(=O)O)C=CC1Cl | C7H4BrClO2
reactant | HATU | 192 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 69 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cyclopropylamine | 0.04 ml | C1(CC1)N | C3H7N
reactant | DIPEA | 0.27 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | methanol | 5 ml | CO | CH4O
product | 3-bromo-4-chloro-N-cyclopropylbenzamide | BrC=1C=C(C(=O)NC2CC2)C=CC1Cl | C10H9BrClNO
